US08207177B2
Step c: ((1S,2R,3S,4R)-4-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]-pyrimidin-7-yl}-2,3-dihydroxycyclopentyl)methyl sulfamate (Compound I-17)
To a suspension of ((3aR,4S,6R,6aS)-6-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]-dioxol-4-yl)methanol (45.9 mg, 0.109 mmol) and pyridine (0.0180 mL, 0.222 mmol) in AcCN (1.10 mL) and DCM (0.500 mL) at 0° C. under an atmosphere of nitrogen was added dropwise a 2.00 M solution of chlorosulfonamide in AcCN (0.110 mL, 0.220 mmol, as prepared in 1j). The suspension was stirred for 2 h and more 2.00 M of chlorosulfonamide in AcCN solution (0.150 mL, 3.00 mmol) was added. After 5 min the reaction was quenched with MeOH (1.00 mL) and the solvent was removed in vacuo. The residue was purified by silica gel chromatography eluting with a gradient of 0 to 10% MeOH in DCM to afford the title compound as a white solid (23.1 mg, 46%). 1H NMR (400 MHz, CD3OD, δ): 8.36 (s, 1H), 7.62 (d, J=3.1 Hz, 1H), 7.43-7.33 (m, 4H), 7.04 (d, J=3.0 Hz, 1H), 5.67 (br s, 1H), 5.25-5.20 (m, 1H), 4.61 (dd, J=3.8, 9.3 Hz, 1H), 4.48 (dd, J=2.0, 9.9 Hz, 1H), 4.27-4.22 (m, 2H), 3.74 (s, 1H), 3.27-3.20 (m, 1H), 3.13-3.05 (m, 1H), 3.02-2.90 (m, 1H), 2.87-2.77 (m, 1H), 2.35-2.19 (m, 3H) ppm. LC/MS: Rt=0.94 min, ES+ 460. (FA standard).

reactant | ((3aR,4S,6R,6aS)-6-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]-dioxol-4-yl)methanol | 0.109 mmol, 45.9 mg | [C@@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)N(C=C2)[C@@H]2C[C@H]([C@@H]1[C@H]2OC(O1)(C)C)CO | C24H28N4O3
reactant | pyridine | 0.222 mmol, 0.0180 mL | N1=CC=CC=C1 | C5H5N
reactant | chlorosulfonamide | ClS(=O)(=O)N | ClH2NO2S
reactant | chlorosulfonamide | 2.00 M | ClS(=O)(=O)N | ClH2NO2S
solvent | AcCN | 1.10 mL | C(=O)(C)C#N | C3H3NO
solvent | DCM | 0.500 mL | C(Cl)Cl | CH2Cl2
solvent | AcCN | 3.00 mmol, 0.150 mL | C(=O)(C)C#N | C3H3NO
solvent | AcCN | 0.220 mmol, 0.110 mL | C(=O)(C)C#N | C3H3NO
product | ((1S,2R,3S,4R)-4-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]-pyrimidin-7-yl}-2,3-dihydroxycyclopentyl)methyl sulfamate | 23.1 mg, 46% | S(N)(OC[C@H]1[C@H]([C@H]([C@@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)O)O)(=O)=O | C21H25N5O5S
